US06869974B1
To a solution of N-nicotinoyl-β-alanyl-(L)-histidine (9.9 g, 30.1 mmoles) in tetrahydrofuran (200 ml) triphenylphosphine (23.7 g, 90.3 mmoles) and carbon tetrabromide (28.85 g, 90.3 moles) are added under stirring. The reaction mixture is left under stirring at room temperature for 24 hours. Lastly the solvent is removed by evaporation at reduced pressure. The obtained crude product is purified by chromatography on silica gel column eluting with n-hexane/ethyle acetate 1/1. N-nicotinoyl-β-alanyl-(L)-histidine 4-bromobutyl ester is obtained.

reactant | N-nicotinoyl-β-alanyl-(L)-histidine | 30.1 mmoles, 9.9 g | C(C1=CN=CC=C1)(=O)NCCC(=O)N[C@@H](CC1=CNC=N1)C(=O)O | C15H17N5O4
reactant | tetrahydrofuran | 90.3 mmoles, 200 ml, 23.7 g | O1CCCC1 | C4H8O
reactant | carbon tetrabromide | 90.3 moles, 28.85 g | C(Br)(Br)(Br)Br | CBr4
product | N-nicotinoyl-β-alanyl-(L)-histidine 4-bromobutyl ester | BrCCCCOC([C@@H](NC(CCNC(C1=CN=CC=C1)=O)=O)CC1=CNC=N1)=O | C19H24BrN5O4
